US08735411B2
5-Oxo-5,6,7,8,9,10-hexahydro-benzocyclooctene-6-carboxylic acid methyl ester
Dimethyl carbonate (20 mL) was treated with NaH (60% dispersed in oil, 660 mg, 46 mmol), heated at 85° C., treated dropwise with a solution of 7,8,9,10-tetrahydro-6H-benzocycloocten-5-one (prepared according to Richard W. Thies, J. Org. Chem. 42(2), 280-281, 1977) (950 mg, 5.5 mmol) in dimethyl carbonate (10 mL), stirred at 85-90° C. for three hours, cooled to 0° C., acidified by the slow addition of 1 M HCl (50 mL) and extracted with ether (150 mL). The organic was isolated, washed with brine, dried (MgSO4) and concentrated to provide the title compound.

reactant | NaH | 46 mmol, 660 mg | [H-].[Na+]
reactant | 7,8,9,10-tetrahydro-6H-benzocycloocten-5-one | 5.5 mmol, 950 mg | C1=CC=CC2=C1CCCCCC2=O | C12H14O
reactant | HCl | 1 M, 50 mL | Cl | ClH
reactant | dimethyl carbonate | 10 mL | C(OC)(OC)=O | C3H6O3
reactant | Dimethyl carbonate | 20 mL | C(OC)(OC)=O | C3H6O3
product | 5-Oxo-5,6,7,8,9,10-hexahydro-benzocyclooctene-6-carboxylic acid methyl ester | COC(=O)C1C(C2=C(CCCC1)C=CC=C2)=O | C14H16O3
